US09315513B2
Step 2: Preparation of 5-acetylaminoindazole
By referring to the Step 3 of Example 1, 5-aminoindazole (5 g, 37.6 mmol), AcOH (20 mL) and Ac2O (5 mL), were used, concentrated to obtain a crude product that was directly used in the next step of reaction.

reactant | 5-aminoindazole | 37.6 mmol, 5 g | NC=1C=C2C=NNC2=CC1 | C7H7N3
reactant | Ac2O | 5 mL | CC(=O)OC(=O)C | C4H6O3
solvent | AcOH | 20 mL | CC(=O)O | C2H4O2
product | 5-acetylaminoindazole | C(C)(=O)NC=1C=C2C=NNC2=CC1 | C9H9N3O
